US04081449
2-Cinnamyl-8-(2,3-dimethylphenyl-n-heptyl)-5,5-di(n-propyl)-10-[4-(pyrrolidino)butyryloxy]-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine hydrochloride
2-Cinnamyl-8-(2,3-dimethylphenyl-n-heptyl)-5,5-di(n-propyl)-10-hydroxy-1,2,3,4-tetrahydro-5H[1]benzopyrano [3,4-d]pyridine, γ-pyrrolidinobutyric acid hydrochloride and dicyclohexylcarbodiimide are reacted in equimolar amounts according to Example 1 to form the desired product.

reactant | 2-Cinnamyl-8-(2,3-dimethylphenyl-n-heptyl)-5,5-di(n-propyl)-10-hydroxy-1,2,3,4-tetrahydro-5H[1]benzopyrano [3,4-d]pyridine | C(C=CC1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(CCC)CCC)C=C(C=C1O)CCCCCCCC1=C(C(=CC=C1)C)C | C42H55NO2
reactant | γ-pyrrolidinobutyric acid hydrochloride | Cl.N1(CCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 2-Cinnamyl-8-(2,3-dimethylphenyl-n-heptyl)-5,5-di(n-propyl)-10-[4-(pyrrolidino)butyryloxy]-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.C(C=CC1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(CCC)CCC)C=C(C=C1OC(CCCN1CCCC1)=O)CCCCCCCC1=C(C(=CC=C1)C)C | InChI=1S/C50H68N2O3.ClH/c1-5-29-50(30-6-2)45-28-35-52(34-18-24-41-21-12-10-13-22-41)38-44(45)49-46(54-48(53)27-19-33-51-31-15-16-32-51)36-42(37-47(49)55-50)23-11-8-7-9-14-25-43-26-17-20-39(3)40(43)4;/h10,12-13,17-18,20-22,24,26,36-37H,5-9,11,14-16,19,23,25,27-35,38H2,1-4H3;1H
